US08461134B2
Ethyl 5-amino-2-(N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenylcarbamate
To a stirred solution of ethyl 2-(N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-5-nitrophenylcarbamate (0.15 g, 0.34 mmol) in 10 mL of MeOH: EtOAc was added Pd/C (10 wt. % on activated carbon, 50 mg), followed by charging with hydrogen under 50 psi for 2 hour. The crude was filtered through celite, concentrated, the residue was purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column) to give the title compound ethyl 5-amino-2-(N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenylcarbamate as light yellow solid (114 mg). MS calcd for (C16H17BFN3O6S): 409.1. MS found (ESI negative): (M−H)−=408.1. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.84 (s, 1H), 9.30 (s, 1H), 8.49 (s, 1H), 7.65 (d, J=8 Hz, 1H), 7.24 (m, 2H), 7.20 (d, J=10 Hz, 1H), 6.18 (dd, J=8.8, 2 Hz, 1H), 6.09 (bs, 2H), 4.89 (s, 2H), 4.01 (q, J=7.2 Hz, 2H), 1.17 (t, J=7.2 Hz, 3H).

reactant | ethyl 2-(N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-5-nitrophenylcarbamate | 0.34 mmol, 0.15 g | FC1=CC2=C(B(OC2)O)C=C1NS(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])NC(OCC)=O | C16H15BFN3O8S
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | ethyl 5-amino-2-(N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenylcarbamate | 114 mg | NC=1C=CC(=C(C1)NC(OCC)=O)S(NC=1C(=CC2=C(B(OC2)O)C1)F)(=O)=O | C16H17BFN3O6S
